US05366957
A mixture of 3-cyclopropyl- 1-[5-(methylsulphenyl )-pyrid-2-yl]propan- 1,3-dione (2.9 g), dimethylformamide dimethyl acetate and dioxane was stirred at room temperature overnight. It was evaporated to dryness and the residue was triturated with ether and filtered to give 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-[5-(methylsulphenyl)-pyrid-2-yl]propan- 1,3-dione (3.24 g) as a brown solid which was used without further characterization.

reactant | 3-cyclopropyl- 1-[5-(methylsulphenyl )-pyrid-2-yl]propan- 1,3-dione | 2.9 g | C1(CC1)C(CC(=O)C1=NC=C(C=C1)SC)=O | C12H13NO2S
reactant | dimethylformamide dimethyl acetate | CC(C(=O)O)C.CN(C=O)C
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-[5-(methylsulphenyl)-pyrid-2-yl]propan- 1,3-dione | 3.24 g | C1(CC1)C(C(C(=O)C1=NC=C(C=C1)SC)=CN(C)C)=O | C15H18N2O2S
